US07704995B2
To a solution of 3-amino-6-(3-aminophenyl)-N-methylpyrazine-2-carboxamide (0.25 g, 1.03 mmol) in dry tetrahydrofuran (2 mL) was added benzyl isocyanate (0.15 g, 1.12 mmol). The mixture was allowed to stir overnight. The solid product was filtered from the reaction mixture and triturated with hexane/ethyl acetate (9:1). The solid was collected by filtration and dried to afford 3-amino-N-methyl-6-[3-({[(phenylmethyl)amino]carbonyl}amino)phenyl]pyrazine-2-carboxamide (0.26 g, 70% yield) as light yellow solid. 1H NMR (400 MHz, d6-DMSO): 8.80 (m, 1H), 8.64 (s, 1H), 8.02 (s, 1H), 7.68 (d, 1H), 7.58 (d, 1H), 7.30 (m, 8H), 4.30 (d, 2H), 2.80 (d, 3H); MS (EI) for C20H20N6O2: 377 (MH+).

reactant | 3-amino-6-(3-aminophenyl)-N-methylpyrazine-2-carboxamide | 1.03 mmol, 0.25 g | NC=1C(=NC(=CN1)C1=CC(=CC=C1)N)C(=O)NC | C12H13N5O
reactant | benzyl isocyanate | 1.12 mmol, 0.15 g | C(C1=CC=CC=C1)N=C=O | C8H7NO
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 3-amino-N-methyl-6-[3-({[(phenylmethyl)amino]carbonyl}amino)phenyl]pyrazine-2-carboxamide | 0.26 g, 70% yield | NC=1C(=NC(=CN1)C1=CC(=CC=C1)NC(=O)NCC1=CC=CC=C1)C(=O)NC | C20H20N6O2
